US07893077B2
5-Methyl-6-[4-(piperidine-1-sulfonyl)-phenylsulfanyl]-pyridazin-3-ylamine (110 mgs), 2-chloro-4-trifluoromethylbenzenesulfonyl chloride (160 mgs) and pyridine (1 ml) were heated at 50° C. under nitrogen for 72 hours. All volatiles were removed and the residue purified by Preparative HPLC to give 2-chloro-N-{5-methyl-6-[4-(piperidine-1-sulfonyl)-phenylsulfanyl]-pyridazin-3-yl}-4-trifluoromethyl-benzenesulfonamide 20 mg. 1H NMR (CDCl3) 8.25 (1H, d) 7.75 (2H, m) 7.7 (1H, s) 7.6 (3H, m) 6.95 (1H, s) 3.0 (4H, m) 2.3 (3H, s) 1.6 (4H, m) 1.45 (2H, m). LCMS Polarity/Scan type: Negative Q1 Scan. M.wt. 605 (—H), 607 (—H). Retention time 7.05 minutes. HPLC:—MS8. Retention time 4.99 minutes.

reactant | 5-Methyl-6-[4-(piperidine-1-sulfonyl)-phenylsulfanyl]-pyridazin-3-ylamine | 110 mgs | CC=1C=C(N=NC1SC1=CC=C(C=C1)S(=O)(=O)N1CCCCC1)N | C16H20N4O2S2
reactant | 2-chloro-4-trifluoromethylbenzenesulfonyl chloride | 160 mgs | ClC1=C(C=CC(=C1)C(F)(F)F)S(=O)(=O)Cl | C7H3Cl2F3O2S
solvent | pyridine | 1 ml | N1=CC=CC=C1 | C5H5N
product | 2-chloro-N-{5-methyl-6-[4-(piperidine-1-sulfonyl)-phenylsulfanyl]-pyridazin-3-yl}-4-trifluoromethyl-benzenesulfonamide | 20 mg | ClC1=C(C=CC(=C1)C(F)(F)F)S(=O)(=O)NC=1N=NC(=C(C1)C)SC1=CC=C(C=C1)S(=O)(=O)N1CCCCC1 | C23H22ClF3N4O4S3
